US04148811
Into a 50 ml 3-neck round bottom flask fitted with a condenser, thermometer, and magnetic stirrer were placed 11.4 g (0.04 mole) stearic acid, 8.0 g (0.06 mole) N-chlorosuccinimide, 0.1 ml (0.0015 mole) chlorosulfonic acid, and 0.04 g (0.0002 mole) TCNQ. The flask was placed in a heating bath set at 150° C. The mixture was stirred during heating, and a homogeneous liquid phase was formed. The solution temperature continued to rise above that of the heating bath, and a sudden exothermic reaction occurred in which the reaction temperature increased to ca. 220° C. The reaction mixture was cooled and dissolved in chloroform, and the resulting solution was washed thoroughly with dilute aqueous sodium chloride solution. After drying and removal of the chloroform, the residue was recrystallized from acetonitrile to afford 8.9 g (70%) of 2-chlorostearic acid which was equivalent in purity to the product of Example I.

reactant | stearic acid | 0.04 mole, 11.4 g | C(CCCCCCCCCCCCCCCCC)(=O)O | C18H36O2
reactant | N-chlorosuccinimide | 0.06 mole, 8.0 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
catalyst | chlorosulfonic acid | 0.0015 mole, 0.1 ml | ClS(=O)(=O)O | ClHO3S
catalyst | TCNQ | 0.0002 mole, 0.04 g | C1=CC(=C(C#N)C#N)C=CC1=C(C#N)C#N | C12H4N4
product | 2-chlorostearic acid | 8.9 g, 70% | ClC(C(=O)O)CCCCCCCCCCCCCCCC | C18H35ClO2
